US08871934B2
2-chloro-5-methoxy-pyridine
Under a nitrogen atmosphere, potassium carbonate (5.52 g) was added to a mixture of 2-chloro-5-hydroxy-pyridine (2.591 g), methyl iodide (1.50 ml) and dimethylformamide (26 ml), and the mixture was stirred at room temperature for 18 hr. To the reaction mixture was added ethyl acetate and the mixture was placed in a separatory funnel. The organic layer was washed 4 times with aqueous ammonium chloride, dried over anhydrous sodium sulfate, and filtered. The filtrate was concentrated under reduced pressure to give the title compound (2.403 g, 84%).

reactant | potassium carbonate | 5.52 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-5-hydroxy-pyridine | 2.591 g | ClC1=NC=C(C=C1)O | C5H4ClNO
reactant | methyl iodide | 1.50 ml | CI | CH3I
reactant | dimethylformamide | 26 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-chloro-5-methoxy-pyridine | 2.403 g, 84% | ClC1=NC=C(C=C1)OC | C6H6ClNO
